US08859108B2
Step 3: Synthesis of 2-[4-(10-phenyl-9-anthryl)phenyl]benzoxazole
In a 50 mL three-neck flask, 1.0 g (3.0 mmol) of 9-bromo-10-phenylanthracene, 0.72 g (3.0 mmol) of 4-(benzoxazol-2-yl)phenylboronic acid, 0.10 g (0.32 mmol) of tri(ortho-tolyl)phosphine, 20 mL of ethylene glycol dimethyl ether (DME), and 3.0 mL (6.0 mmol) of a 2.0 M potassium carbonate solution were placed. The mixture was degassed by being stirred under reduced pressure, and the air in the flask was replaced with nitrogen. To the mixture, 14 mg (0.062 mmol) of palladium(II) acetate was added, and the mixture was stirred under nitrogen stream at 80° C. for 6 hours. After a certain period, water was added to the mixture, and an aqueous layer was extracted with toluene. The obtained extracted solution and the organic layer were combined and washed with saturated saline, and the organic layer was dried with magnesium sulfate. The mixture was gravity filtered, and the obtained filtrate was condensed to give an oily substance. The oily substance was purified by silica gel column chromatography (toluene:hexane=2:1) and recrystallized with toluene/methanol, giving 1.1 g of the target pale yellow powder in a yield of 81%.

reactant | 9-bromo-10-phenylanthracene | 3.0 mmol, 1.0 g | BrC=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=CC=C1 | C20H13Br
reactant | 4-(benzoxazol-2-yl)phenylboronic acid | 3.0 mmol, 0.72 g | O1C(=NC2=C1C=CC=C2)C2=CC=C(C=C2)B(O)O | C13H10BNO3
reactant | tri(ortho-tolyl)phosphine | 0.32 mmol, 0.10 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | potassium carbonate | 2.0 M | C([O-])([O-])=O.[K+].[K+]
catalyst | palladium(II) acetate | 0.062 mmol, 14 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
solvent | ethylene glycol dimethyl ether | 20 mL | COCCOC | C4H10O2
product | 2-[4-(10-phenyl-9-anthryl)phenyl]benzoxazole | 1.1 g, yield of 81% | C1(=CC=CC=C1)C1=C2C=CC=CC2=C(C2=CC=CC=C12)C1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | C33H21NO
